US04795824
In the plant of FIG. 6 maleic anhydride is supplied in line 401 to monoesterification reactor 402, to which is also supplied a stream containing ethanol in line 403. Reactor 402 is also fed by way of line 401 with a recycle stream from line 404 that contains recovered maleic anhydride and diethyl maleate. Monoesterification reactor 402 is provided with a stirrer 405, with a cooling coil 406 (which doubles as a steam heating coil at start up of the plant), and with a vent line 407. Maleic anhydride reacts with ethanol in reactor 402 to produce monoethyl maleate in the absence of a catalyst. The liquid reaction mixture from reactor 402 is discharged in line 408 and pumped by pump 409 to steam heater 410. Upstream from heater 410 it is admixed with two streams comprising further ethanol supplied in lines 411 and 412. The mixed stream flows on in line 413 to a primary esterification reactor 414 which contains a fixed bed of an acidic ion exchange resin, such as Amberlyst 16. Reaction between monoethyl maleate and ethanol to form diethyl maleate takes place in reactor 414.

reactant | monoethyl maleate | C(\C=C/C(=O)[O-])(=O)OCC
reactant | ethanol | C(C)O | C2H6O
product | diethyl maleate | C(\C=C/C(=O)OCC)(=O)OCC | C8H12O4
